US06660744B1
To a solution of N-(4-bromophenyl)-N-(1-phenylmethylidene)amine (1.0 g, 0.00385 mol) in toluene (30 mL) cooled to −78° C., a 1.4M solution of methyl lithium in diethyl ether (5.5 mL) was added dropwise keeping the temperature below −75° C. The solution was warmed up to −40° C. and stirred at this temperature under an atmosphere of nitrogen for 3 hours. The reaction mixture was quenched by a dropwise addition of water and the layers were separated. The organic phase was washed with brine (50 mL), dried with magnesium sulfate and concentrated under reduced pressure to yield N-(4-bromophenyl)-N-(1-phenylethyl)amine (1.03 g, 0.00373 mol) as an off-white solid.

reactant | N-(4-bromophenyl)-N-(1-phenylmethylidene)amine | 0.00385 mol, 1.0 g | BrC1=CC=C(C=C1)N=CC1=CC=CC=C1 | C13H10BrN
reactant | methyl lithium | C[Li]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 5.5 mL | C(C)OCC | C4H10O
product | N-(4-bromophenyl)-N-(1-phenylethyl)amine | 0.00373 mol, 1.03 g | BrC1=CC=C(C=C1)NC(C)C1=CC=CC=C1 | C14H14BrN
